US08357524B2
(R)-Mandelic acid (2.568 g, 16.87 mmol) and 2,2-dimethoxypropane (5.1 mL, 41.48 mmol) were dissolved in MeOH (100 mL) and 12M HCl (100 mL) was added. The resulting solution was stirred for 20 hr under a CaCl2 tube and evaporated to dryness under reduced pressure. EtOAc (100 mL) and saturated aqueous NaHCO3 (100 mL) were added, and the aqueous phase was extracted with EtOAc (3×100 mL). The organic fractions were dried with MgSO4, and evaporated under reduced pressure to give (R)-methyl mandelate, (R)-4, quantitatively (2.78 g) as a white solid which was of sufficient purity for the next step.

reactant | (R)-Mandelic acid | 16.87 mmol, 2.568 g | C([C@H](O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | 2,2-dimethoxypropane | 41.48 mmol, 5.1 mL | COC(C)(C)OC | C5H12O2
reactant | HCl | 12M, 100 mL | Cl | ClH
solvent | MeOH | 100 mL | CO | CH4O
product | (R)-methyl mandelate | C([C@H](O)C1=CC=CC=C1)(=O)OC | C9H10O3
